US05468897
4-[3-(1-adamantyl)-4-butylbenzoyloxy]benzoic acid
Into a round bottom flask and under argon, there are introduced 4.1 g (10 mmoles) of methyl 3-(1-adamantyl)-4-(trifluoromethyl)sulfonyloxybenzoate in 50 ml of DMF. There are then added, successively, 3.6 ml (11 mmoles) of tetrabutyltin, 1.3 g (30 mmoles) of lithium chloride and 141 mg (0.2 mmole) of bis-(triphenylphosphine) palladium (II) chloride. The mixture is heated at 80° C. for 24 hours. The reaction medium is poured into water and extracted with ethyl ether. The organic phase is decanted, dried on magnesium sulfate and evaporated. The resulting residue is purified by chromatography on a silica column by eluting with a 30:70 mixture of dichloromethane and hexane. After evaporation of the solvents, 2.6 g (80% yield) of the expected product in the form of slightly yellow oil are obtained.

reactant | methyl 3-(1-adamantyl)-4-(trifluoromethyl)sulfonyloxybenzoate | 10 mmoles, 4.1 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC)C=CC2OS(=O)(=O)C(F)(F)F | C19H21F3O5S
reactant | tetrabutyltin | 11 mmoles, 3.6 ml | C(CCC)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 30 mmoles, 1.3 g | [Cl-].[Li+]
reactant | water | O | H2O
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | bis-(triphenylphosphine) palladium (II) chloride | 0.2 mmole, 141 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[3-(1-adamantyl)-4-butylbenzoyloxy]benzoic acid | 2.6 g, 80% yield | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC3=CC=C(C(=O)O)C=C3)C=CC2CCCC | C28H32O4
